US07479502B2
Proceeding as in Reference 21, but substituting 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide and benzoyl chloride, gave N-benzoyl-5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide.

reactant | 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)N | C14H12N2O6S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-benzoyl-5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide | C(C1=CC=CC=C1)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C21H16N2O7S
